Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizzyness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a pleasant ___ year-old male with no significant past
medical history.  On ___ evening, ___, the patient became
dizzy and the room was spinning when he arose from sitting.  he
described a right frontal headache located primarily behind his
eye.  He didn't think much of it and went to bed.  On the
following morning, the patient ate breakfast and felt fairly
normal.  Shortly thereafter, he again felt dizzy (room 
spinning),
became nauseated and vomited.  He laid down on the floor to try
and relax.  Because the patient didn't feel better, he called 
his
son to take him to ___. Since that time, he
complains of an intermittent headache located in the posterior
(occipital) area of his ___.

While at ___, the patient initially underwent a
non-contrast ___ CT and CTA on ___.  CT was a normal study and
CTA was most notable for distal left ICA stenosis and moderate 
to
severe focal stenosis of left vertebral artery.  

Today, ___, the patient was being transported to radiology for 
a
MRI study of his ___.  While in transit, the patient became
clammy and dizzy and didn't feel well enough to sit through the
exam.  Instead, he underwent a repeat non-contrast ___ CT which
revealed a right cerebellar infarct with effacement of the 
fourth
ventricle.  As a result, arrangements were made to send the
patient to ___ for neurosurgical evaluation.

 
Past Medical History:
None.  Patient thinks he had high cholesterol, but was
controlling it via diet per PCP.

 
Social History:
___
Family History:
Mother had hypertension and diabetes, father died of stroke in
his ___.

 
Physical Exam:
Exam on Admission
O: T: 98.4   HR 80  BP: 169/79  RR 22  O2 Sat 95% on room air
Gen: WD/WN, comfortable, NAD.
HEENT: PERRL, EOMs intact.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

Sensation: Intact to light touch. 

Coordination: normal on finger-nose-finger.

Right handed.

Discharge Exam:
General: Awake, cooperative, NAD.
Neck: Supple, no nuchal rigidity.
Lung: CTAB
CV: RRR, nl S1, S2, no m/r/g
Abdomen: Soft, NT, ND, +BS, no organomegaly/masses palpated
Extremities: No C/C/E bilaterally

Neurologic:
-Mental Status: Alert, oriented. Attentive to conversation.
Language is fluent without dysarthria or word-finding 
difficulty.
Normal prosody. There were no paraphasic errors. Following
commands. 
-Cranial Nerves: PERRL. EOMI. No nystagmus. Symmetric smile,
symmetric facial sensation.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Strength ___ throughout.
-Sensory: Sensation to light touch intact throughout.
-DTRs: 2+ throughout.
Coordination: normal finger to nose and heel-shin testing.
 
Pertinent Results:
___ ECHO
The left atrium is normal in size. No thrombus/mass is seen in 
the body of the left atrium. No atrial septal defect is seen by 
2D or color Doppler. There is mild (non-obstructive) focal 
hypertrophy of the basal septum ( in some views it appears as an 
aberrant papillary muscle insertion at the basal septum). The 
left ventricular cavity size is normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). No masses or thrombi are 
seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No masses or vegetations are 
seen on the aortic valve. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. No mass or 
vegetation is seen on the mitral valve. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion.  

___ NCHCT
Overall stable appearance of right cerebellar infarct and 
resultant effacement of the fourth ventricle. 

___ CXR
No relevant change as compared to the previous EXAMINATION:. 
Normal size of the cardiac silhouette. Normal hilar and 
mediastinal structures. Mild 
elongation of the descending aorta. 

___ MR ___
IMPRESSION: 
1. No evidence of acute intracranial hemorrhage. 
2. Subacute right cerebellar infarct with associated edema and 
effacement of the fourth ventricle. The third ventricle and 
lateral ventricles are stable in size. 
3. Presumed sequelae of chronic small vessel ischemic disease. 

___ 04:42AM BLOOD %HbA1c-5.5 eAG-111
___ 04:42AM BLOOD Triglyc-76 HDL-72 CHOL/HD-3.2 
LDLcalc-144*
___ 09:30PM BLOOD TSH-0.98
 
Brief Hospital Course:
Mr. ___ is a ___ RHM with HLD, smoking history, diffuse 
arterial stenosis on CTA, family history of stroke, who was 
transfered from ___ with vertigo, found to have R 
cerebellar infarct on MRI, consistent with ___ vascular 
distribution. Etiology of the stroke is thought to be embolic 
from atherosclerotic plaque in the vertebral artery. He was 
initially admitted to the Neurosurgical service in case 
decompressive craniectomy was indicated if the patient developed 
cerebral edema with obstruction of ___ ventricle causing 
hydrocephalus or brainstem impingement.

On ___, stroke neurology was consulted who recommended that he 
start on aspirin as well as a statin. A standard stroke work up 
was implemented which included laboratory tests as well as an 
echocardiogram. The echocardiogram was negative for any 
significant heart defects, including no ASD/PFO. A repeat NCHCT 
was obtained which showed stable overall appearance of right 
cerebellar infarct. Physical therapy was consulted who felt the 
patient had no deficits requiring their management. 

On ___ he was clinically stable and without complaint. His exam 
showed no cerebellar signs. His case was discussed with the 
stroke neurology service and given his exam he was accepted for 
transfer to their service.  

On ___ the patient has a stable neurologic exam and stable 
cerebral ___
ventricle effacement on imaging; at 5 days out from the stroke 
he has passed the window for peak cerebral edema. He is stable 
for transfer to floor.

On ___ the patient was discharged home without need for home 
___. Neurologic exam stable.

Neuro:
- Aspirin 81mg QD
- Atorvastatin 20mg QD; LDL 144
- recommend 14 day heart monitor to check for afib - pt 
instructed to call stroke clinic for this monitor
 
Medications on Admission:
This patient is not taking any preadmission medications

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,
You were admitted with vertigo due to a stroke in the right part 
of your brain.   This was thought to be due to your 
atherosclerotic plaques in the blood vessels that lead to the 
brain. You were started on Aspirin for stroke protection.   Your 
stroke risk factors were checked.  Your LDL (bad) cholesterol 
was 144.  You were started on atorvstatin. Some people have 
muscle pain with this- let your primary doctor know if that 
happens for you. You had a cardiac echocardiogram which 
demonstrated no cause for stroke.   You were checked for blood 
glucose control with a HgB A1c which was normal. We monitored 
your heart rate and found no abnormal rhythm but would like to 
make sure with extended monitoring at home. Please call the 
numbner below to schedule.  You need to continue your good blood 
pressure control.  
 
You should continue to eat a low fat healthy diet, and follow up 
with your primary care physician and stroke ___ as below.
 
It was a pleasure taking care of you.  

 
Followup Instructions:
___